US07151105B2
Step 1: 2,2,2-trifluoro-1-(2-methoxyphenyl)ethanone.
2 Methoxy phenyl magnesium bromide (35 ml) was added slowly to a solution of methyl trifluoroacetate (5.0 g) in diethyl ether (100 ml) at −78° C. The reaction mixture was warmed to room temperature over 12 hrs and the quenched with saturated ammonium chloride solution (100 ml). The mixture was then partitioned between ethyl acetate (500 ml) and water (250 ml) The organics were separated and dried over magnesium sulfate filtered and concentrated in vacuuo. The crude residue was purified by column chromatography on silica gel eluting with 100% hexanes, 90:10 and 80:20, hexanes:ethyl acetate, to afford title compound as a yellow oil. (4.0 g). 1H NMR (CDCl3): δ 3.57 (s, 3 H), 7.00 (m, 2 H), 7.35 (m,1 H), 7.63, (d, J=2.54 Hz 2 H).

reactant | Methoxy phenyl magnesium bromide | 35 ml | CO[Mg]C1=CC=CC=C1.[Br-]
reactant | methyl trifluoroacetate | 5.0 g | FC(C(=O)OC)(F)F | C3H3F3O2
reactant | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 2,2,2-trifluoro-1-(2-methoxyphenyl)ethanone | FC(C(=O)C1=C(C=CC=C1)OC)(F)F | C9H7F3O2
